US04757081
In 110 ml of xylene were dissolved 3.1 g (0.011 mole) of 2-methyl-1,5-diphenyl-1,3,5-pentanetrione, 20.0 g (0.11 mole) of 2,3,4,5,6-pentafluoroaniline, 3.1 g (0.016 mole) of paratoluenesulfonic acid and 22.0 g of Molecular Sieves 5A, followed by reflux for 1 hours. After cooling the reaction mixture, solid matter was removed by filtration and the filtrate was then concentrated. After 200 ml of chloroform was added, the resultant solution in chloroform was washed first with 50 ml of 10% hydrochloric acid and then with 50 ml of a 10% aqueous solution of sodium hydroxide. After washing the solution in chloroform further with water, it was dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was subjected to column chromatography (eluent: 50:1 mixed solvent of chloroform and methanol). The resulting crystals were recrystallized from a 1:1 mixed solvent of acetone and hexane, thereby affording 1.3 g of 3-methyl-1-(2,3,4,5,6-pentafluorophenyl)-2,6-diphenyl-4(1H)-pyridinone having a melting point of 192°-194° C.

reactant | 2-methyl-1,5-diphenyl-1,3,5-pentanetrione | 0.011 mole, 3.1 g | CC(C(=O)C1=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C18H16O3
reactant | 2,3,4,5,6-pentafluoroaniline | 0.11 mole, 20.0 g | FC1=C(N)C(=C(C(=C1F)F)F)F | C6H2F5N
solvent | xylene | 110 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-methyl-1-(2,3,4,5,6-pentafluorophenyl)-2,6-diphenyl-4(1H)-pyridinone | 1.3 g | CC1=C(N(C(=CC1=O)C1=CC=CC=C1)C1=C(C(=C(C(=C1F)F)F)F)F)C1=CC=CC=C1 | C24H14F5NO
